US06875765B2
To lithium aluminum hydride (0.45 mL of 1.0 M solution in diethyl ether) in diethyl ether (7 mL) at −65° C. was added (S)-3-[2-(2-isoquinolin-4-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester in 1:1 THF/diethylether (4 mL). After 1 hour, the reaction was quenched by addition of 1.0N sodium hydroxide (2 mL) and the reaction was warmed to room temperature. The organic layer was separated and evaporated. The resulting residue was chromatographed on silica gel eluting with 10% diethyl ether in ethyl acetate to give (S)-3-[2-(2-isoquinolin-4-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester as a colorless foam (39 mg). MS (APCI) m/z 485.1 (M+1).

reactant | lithium aluminum hydride | 1.0 M, 0.45 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-3-[2-(2-isoquinolin-4-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C(=O)N(C)OC)NS(=O)(=O)C1=C(C=CC=C1)OCCC1=CN=CC2=CC=CC=C12)=O | C27H33N3O7S
reactant | THF diethylether | 4 mL | C1CCOC1.C(C)OCC
solvent | diethyl ether | 7 mL | C(C)OCC | C4H10O
product | (S)-3-[2-(2-isoquinolin-4-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester | 39 mg | C(C)(C)(C)OC(C[C@@H](C=O)NS(=O)(=O)C1=C(C=CC=C1)OCCC1=CN=CC2=CC=CC=C12)=O | C25H28N2O6S
